US06740649B2
K2CO3 (4.4 g, 31.9 mmol) and 1,2-dibromoethane (690 μL, 8.0 mmol) were added to a solution of 2-aminothiophenol (1.0 g, 8.0 mmol) in 20 mL of acetone at rt. The reaction mixture was stirred overnight. The insoluble material was filtered off and the solvent was removed in vacuum. The residue was purified on silica gel column to provide 3,4-dihydro-2H-1,4-benzothiazine (0.8 g, 66%). MS (ES+): 152 (M+1).

reactant | K2CO3 | 31.9 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dibromoethane | 8.0 mmol, 690 μL | BrCCBr | C2H4Br2
reactant | 2-aminothiophenol | 8.0 mmol, 1.0 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3,4-dihydro-2H-1,4-benzothiazine | 0.8 g, 66% | S1CCNC2=C1C=CC=C2 | C8H9NS
